US05017573
Preparation of 6-acetylamino-1-(3-methyl-benzyl)-4-methylhexahydro-1H-1,4-diazepine:
A mixture of acetate of 6-acetylamino-1-methylhexahydro-1H-1,4-diazepine (3.0 g), 3-methylbenzyl chloride (3.5 g), potassium carbonate (17 g), sodium iodide (0.1 g) and methyl ethyl ketone (200 ml) is refluxed with stirring for 16 hours. The reaction mixture is filtered, and the filtrate is concentrated under reduced pressure. The residue is chromatographed on silica gel with elution of chloroform-methanol (20:1). Fractions containing the title compound are pooled and evaporated under reduced pressure to give the title compound as an oil.

reactant | acetate | C(C)(=O)[O-]
reactant | 6-acetylamino-1-methylhexahydro-1H-1,4-diazepine | 3.0 g | C(C)(=O)NC1CNCCN(C1)C | C8H17N3O
reactant | 3-methylbenzyl chloride | 3.5 g | CC=1C=C(CCl)C=CC1 | C8H9Cl
reactant | potassium carbonate | 17 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.1 g | [I-].[Na+]
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
product | 6-acetylamino-1-(3-methyl-benzyl)-4-methylhexahydro-1H-1,4-diazepine | C(C)(=O)NC1CN(CCN(C1)CC1=CC(=CC=C1)C)C | C16H25N3O
